US06933322B2
N-[5-[2-o-tolyl-oxazol-4-ylmethoxy)naphthalen-2-yl]C,C,C-trifluoromethanesulfonamide
Using same procedure as above 2-o-tolyl-4-Chloromethyloxazole was coupled with 2-Amino-5-naphthol then reacted with triflic anhydride to provide the title compound (0.06 g, 30%) as a pale yellow solid, m.p. 127-130° C. 1H NMR (DMSO-d6, 400 MHz): d 2.65 (s, 3H), 5.30 (s, 2H), 7.23 (d, 1H), 7.34-7.45 (m, 4H), 7.47-7.55 (m, 2H), 7.75 (s, 1H), 7.95 (d, 2H), 8.24 (d, 1H), 8.45 (s, 1H). MS [EI, m/z]: 461 [M−H]+. Anal. Calcd. for C22H17F3N2O4S: C, 57.14; H, 3.71; N, 6.06. Found: C, 58.08; H, 3.81; N, 6.01.

reactant | 2-o-tolyl-4-Chloromethyloxazole | C1(=C(C=CC=C1)C=1OC=C(N1)CCl)C | C11H10ClNO
reactant | 2-Amino-5-naphthol | NC1=CC=2C=CC=C(C2C=C1)O | C10H9NO
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
product | N-[5-[2-o-tolyl-oxazol-4-ylmethoxy)naphthalen-2-yl]C,C,C-trifluoromethanesulfonamide | 0.06 g, 30% | C1(=C(C=CC=C1)C=1OC=C(N1)COC1=C2C=CC(=CC2=CC=C1)NS(=O)(=O)C(F)(F)F)C | C22H17F3N2O4S
